US06177440B1
A suspension of 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one (973 mg, 4.0 mM), a-bromo-2,3-difluorotoluene (1.01 g, 4.8 mM), and potassium carbonate (553 mg, 4.0 mM) in 10 mL DMF was stirred at room temperature for 73 hours. The mixture was diluted with ethyl acetate, washed with H2O, 1 N HCl, H2O, saturated NaHCO3, H2O, and saturated brine, dried over anhydrous magnesium sulfate, filtered, concentrated. The residue was purified by column chromatography on silica gel (elution with methylene chloride/ethyl acetate) to afford 1.04 g (70%) of the 9-[(2,3-difluorophenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one as a tan solid. 1H NMR (CDCl3) δ 7.4 (d, 1H, J=8 Hz), 7.35 (d, 1H, J=8 Hz), 7.15-6.9 (m, 5H), 6.35 (t, 1H, J=8 Hz), 5.4 (s, 2H), 4.05 (s, 3H), 2.9 (t, 2H, J=6 Hz), 2.6 (t, 2H, J=6 Hz), and 2.25 (m, 2H). IR (KBr, cm−1) 1719 and 1650. MS (ES) m/e 368, 370.

reactant | 5-carbomethoxy-1,2-dihydro-9H-carbazol-4(3H)-one | 4.0 mM, 973 mg | C(=O)(OC)C1=C2C=3C(CCCC3NC2=CC=C1)=O | C14H13NO3
reactant | a-bromo-2,3-difluorotoluene | 4.8 mM, 1.01 g | C1=CC(=C(C(=C1)F)F)CBr | C7H5BrF2
reactant | potassium carbonate | 4.0 mM, 553 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-[(2,3-difluorophenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one | 1.04 g, 70% | FC1=C(C=CC=C1F)CN1C2=CC=CC(=C2C=2C(CCCC12)=O)C(=O)OC | C21H17F2NO3
